US09428508B2
To a solution of 2-hydroxybenzaldehyde (5.0 g, 41 mmol) in acetic acid (50 mL) at 0° C. was added nitric acid (65%, 4 g) dropwise. The reaction mixture was slowly warmed to room temperature for 2 hours and then heated at 40° C. for another 5 hours. The resulting mixture was poured into ice (75 g) and water (500 g). The precipitates were filtrated and purified by silica gel chromatography to afford the product 2-hydroxy-3-nitrobenzaldehyde (1.8 g, yield 26%). 1H NMR (400 MHz, CDCl3) δ ppm 11.44 (s, 1H), 10.42 (s, 1H), 8.34-8.37 (dd, 1H, J=2.0 Hz, 8.4 Hz), 8.10-8.13 (dd, 1H, J=2.0 Hz, 7.6 Hz), 7.12-7.16 (t, 1H, J=8.0 Hz).

reactant | 2-hydroxybenzaldehyde | 41 mmol, 5.0 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | nitric acid | 4 g | [N+](=O)(O)[O-] | HNO3
reactant | water | 500 g | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-hydroxy-3-nitrobenzaldehyde | 1.8 g, yield 26% | OC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H5NO4
